US07402680B2
1-Benzyl-3-(3-chloro-4-fluoro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (0.18 g) was prepared from 0.54 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 293 μL of benzylamine, and 0.62 g of 2-chloro-1-fluoro-4-(2-nitro-vinyl)-benzene. MS (ESI): exact mass calculated for C20H18ClFN2, 340.11; found, m/z 341.1 [M+H]+, 343.2 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.45-7.43 (m, 1H), 7.36-7.16 (m, 8H), 5.15 (s, 2H), 4.35 (s, 2H), 3.50 (t, J=6.3 Hz, 2H), 2.85 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.54 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 293 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-chloro-1-fluoro-4-(2-nitro-vinyl)-benzene | 0.62 g | ClC1=C(C=CC(=C1)C=C[N+](=O)[O-])F | C8H5ClFNO2
product | 1-Benzyl-3-(3-chloro-4-fluoro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 0.18 g | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC(=C(C=C2)F)Cl | C20H18ClFN2
